US09056859B2
To a flask charged with 5-bromo-4-propyl-2-benzofuran-1(3H)-one (130 mg, 0.51 mmol) and a stir bar was added allyl tri-n-butyltin (0.24 mL, 0.76 mmol), PdCl2(dppf)-DCM complex (42 mg, 0.051 mmol), lithium chloride (65 mg, 1.5 mmol), and tolene (5 mL). The mixture was sealed with a condensor, purged with nitrogen three times, and heated to reflux for 5 hours. The crude reaction was diluted with EtOAc, adsorbed onto silica gel, and purified by MPLC. Removal of solvent gave rise to 5-allyl-4-propyl-2-benzofuran-1(3H)-one (60 mg, 44% yield) as a light yellow oil.

reactant | 5-bromo-4-propyl-2-benzofuran-1(3H)-one | 0.51 mmol, 130 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)CCC | C11H11BrO2
reactant | allyl tri-n-butyltin | 0.76 mmol, 0.24 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 1.5 mmol, 65 mg | [Cl-].[Li+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-allyl-4-propyl-2-benzofuran-1(3H)-one | 60 mg, 44% yield | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)CCC | C14H16O2
